US09029370B2
a) Ethyl 1-(3-(difluoromethoxy)phenyl)-1H-pyrazole-4-carboxylate
(3-(Difluoromethoxy)phenyl)hydrazine hydrochloride (4.2 g, 19.9 mmol; CAS 479581-64-1) was suspended in ethanol (80 ml) and cooled to 0° C. A solution of ethyl 2-formyl-3-oxopropanoate (2.87 g, 19.9 mmol; CAS 80370-42-9) in ethanol (40 ml) was added, and the reaction was stirred overnight. The solvent was removed under reduced pressure and the residue partitioned between sodium bicarbonate solution and ethyl acetate. The organic layers were combined, dried (MgSO4) and evaporated to yield an orange solid. The solid was suspended in pentane (50 ml) and stirred at 35° C. for 90 min. The suspension was cooled in an ice bath for one hour and the solid was filtered and washed with pentane. After drying 5.12 g (91%) of a yellow solid was obtained MS (ISP): 283.1 ([M+H]+).

reactant | (3-(Difluoromethoxy)phenyl)hydrazine hydrochloride | 19.9 mmol, 4.2 g | Cl.FC(OC=1C=C(C=CC1)NN)F
reactant | ethyl 2-formyl-3-oxopropanoate | 19.9 mmol, 2.87 g | C(=O)C(C(=O)OCC)C=O | C6H8O4
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | pentane | 50 ml | CCCCC | C5H12
product | Ethyl 1-(3-(difluoromethoxy)phenyl)-1H-pyrazole-4-carboxylate | FC(OC=1C=C(C=CC1)N1N=CC(=C1)C(=O)OCC)F | C13H12F2N2O3
